US09029560B2
Preparation of 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol (CA45)
In a 500 mL round bottomed flask 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoic acid (CA13) (5.68 g, 15.1 mmol) was dissolved in tetrahydrofuran (151 mL). The reaction was cooled in an ice water bath and placed under inert atmosphere. Aluminum(III) lithium hydride (2.0 M in tetrahydrofuran, 15.8 mL, 31.6 mmol) was added dropwise. The reaction was allowed to gradually warm to room temperature and stir overnight. The reaction was cooled in an ice bath and water (1.2 mL) was added dropwise to quench excess aluminum(III) lithium hydride, the reaction mixture was allowed to stir for 1 hour. Then sodium hydroxide (15 wt %, 1.2 mL) was added dropwise. The reaction was allowed to stir for 1 hour. Then water (3.6 mL) was added. The resulting precipitate was removed via filtration. The filtrate was concentrated to give a yellow solid (5.20 g). The solid was purified by flash column chromatography using 0-60% ethyl acetate/hexanes as eluent providing the title compound as a white solid (4.01 g, 72%): 1H NMR (400 MHz, DMSO-d6) δ 9.40 (s, 1H), 8.18-8.04 (m, 2H), 7.99-7.89 (m, 2H), 7.68-7.57 (m, 2H), 7.43 (t, J=7.6 Hz, 1H), 7.32 (dt, J=7.7, 1.5 Hz, 1H), 4.51 (t, J=5.2 Hz, 1H), 3.45 (td, J=6.4, 5.1 Hz, 2H), 2.71 (dd, J=8.8, 6.7 Hz, 2H), 1.87-1.70 (m, 2H); 19F NMR (376 MHz, DMSO-d6) δ −56.97; ESIMS m/z 364 ([M+H]+).

reactant | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoic acid | 15.1 mmol, 5.68 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCC(=O)O)(F)F | C18H14F3N3O3
reactant | Aluminum(III) lithium hydride | 31.6 mmol, 2.0 M, 15.8 mL | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | water | 1.2 mL | O | H2O
solvent | tetrahydrofuran | 151 mL | O1CCCC1 | C4H8O
product | 3-(3-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-1-ol | 5.20 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C=1C=C(C=CC1)CCCO)(F)F | C18H16F3N3O2
